US05639751
1-(4-Nitrophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine
To a suspension of 5.0 g (15.5 mmol) of the known 1-(4-nitrophenyl-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine (French patent specification No. 85,09793) in 380 ml of ethanol first 22.5 ml (0.278 mol) of concentrated hydrochloric acid were added at constant stirring whereupon a solution was formed within a few minutes, then 11.5 g (0.3 mole) of sodium borohydride were charged into the solution portionwise during 30 minutes. Stirring was continued for 15 minutes, then the orange-coloured precipitate formed was filtered and extracted on the filter with 4×30 ml of chloroform. The combined chloroform filtrate was evaporated under reduced pressure, the crystalline residue was brought to a filter with 200 ml of distilled water, then washed with 3×20 ml of distilled Water and dried at 80°-100° C. to yield 4.90 g (97.2%) of the aimed product, m.p.: 162°-164° C.

reactant | 4-nitrophenyl-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C17H13N3O4
reactant | ethanol | 0.278 mol, 380 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium borohydride | 0.3 mole, 11.5 g | [BH4-].[Na+]
product | 1-(4-Nitrophenyl)-4-methyl-7,8-methylenedioxy-3,4-dihydro-5H-2,3-benzodiazepine | 4.90 g, 97.2% | [N+](=O)([O-])C1=CC=C(C=C1)C1=NNC(CC2=C1C=C1C(=C2)OCO1)C | C17H15N3O4
